US07365085B2
b) [4-{6-(3-[(2-Chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl)-amino]-propoxy}-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester
Following the procedure of Example 6(d), except 4-(6-Hydroxy-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester and N-(2,2-Diphenylethyl)-N-(3-hydroxy-propyl)-N-(2-chloro-3-trifluoromethyl-benzyl)amine were used instead of 5-(3-hydroxy-benzyl)-ethoxymethyl-1,2,3,4-tetrazole and 3-bromo-propanol in step 6(d), the title compound was synthesized as the free base, 0.46 g (52% yield), as a white solid. MS (ESI) 709.4 (M+).

reactant | 4-(6-Hydroxy-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=CC=C1)O | C14H21N3O3
reactant | N-(2,2-Diphenylethyl)-N-(3-hydroxy-propyl)-N-(2-chloro-3-trifluoromethyl-benzyl)amine | C1(=CC=CC=C1)C(CN(CC1=C(C(=CC=C1)C(F)(F)F)Cl)CCCO)C1=CC=CC=C1 | C25H25ClF3NO
reactant | 5-(3-hydroxy-benzyl)-ethoxymethyl-1,2,3,4-tetrazole | OC=1C=C(CC2=NN=NN2COCC)C=CC1 | C11H14N4O2
reactant | 3-bromo-propanol | BrCCCO | C3H7BrO
product | 4-{6-(3-[(2-Chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl)-amino]-propoxy}-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 52% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=CC=C1)OCCCN(CC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=C(C(=CC=C1)C(F)(F)F)Cl | C39H44ClF3N4O3
